US04970219
N-(4-Amino-3-pyridinyl)-1H-indazol-5-amine
A suspension of N-(4-nitro-3-pyridinyl)-1H-indazol-5-amine, N5 -oxide (7 g) in 250 ml ethanol containing 0.5 g platinum oxide was hydrogenated at 60 psi for sixty hours and thereafter filtered through Celite and concentrated to 3.3 g solid. This solid was purified by HPLC (silica, 25% methanol in dichloromethane) to give 2.1 g solid. This solid was recrystallized twice from acetonitrile to give 1.5 g crystals, m.p. 198°-199°.

reactant | N-(4-nitro-3-pyridinyl)-1H-indazol-5-amine | [N+](=O)([O-])C1=C(C=NC=C1)NC=1C=C2C=NNC2=CC1 | C12H9N5O2
solvent | ethanol | 250 ml, 0.5 g | C(C)O | C2H6O
product | N-(4-Amino-3-pyridinyl)-1H-indazol-5-amine | 2.1 g | NC1=C(C=NC=C1)NC=1C=C2C=NNC2=CC1 | C12H11N5
